US06525220B2
To a solution at 0° C. of 5-chloro-2-nitroaniline (100 g) in dimethylformamide (1.0 l) was added potassium t-butoxide (70.3 g) and the mixture was stirred at 0° C. for 1 hour. To the reaction mixture was added dropwise a solution of dimethyl sulfate (62 ml) in dimethylformamide (100 ml) and the resulting mixture was stirred at 25° C. for 1.5 hours to afford a solution of 5-chloro-N-methyl-2-nitroaniline in dimethylformamide. To the resulting mixture was added 24% sodium methoxide in methanol (230 ml) and the mixture was heated at 55° C. for 2 hours with stirring. At the end of this time the reaction mixture was cooled to 25° C. and water (1.5 l) was added. The precipitated crystals were collected by filtration and washed with water and methanol to give the desired compound (94.5 g, yield 90%).

reactant | 5-chloro-2-nitroaniline | 100 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium t-butoxide | 70.3 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfate | 62 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 1.0 l | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-chloro-N-methyl-2-nitroaniline | ClC=1C=CC(=C(NC)C1)[N+](=O)[O-] | C7H7ClN2O2
